US07968711B2
Preparation of Ethyl 3-(3-Chlorophenylamino)propionate
3-Chloroaniline (3.8 g, 0.03 moles) was dissolved in ethanol (5 ml) and ethyl acrylate (3.3 g, 0.033 moles) was added in ethanol (5 ml). Concentrated hydrochloric acid (1 ml) was added and the reaction mixture was heated at reflux for 48 hours. Evaporated to a low bulk and dissolved the residue in dichloromethane and water. Basified to pH 9 with aqueous ammonia and separated. Evaporated off the dichloromethane under reduced pressure to give the crude product as a yellow oil (5.4 g) Purified using a silica column eluted with isohexane:ethyl acetate 9:1 to give the required product (3.5 g, 51%) as a colourless oil.

reactant | 3-Chloroaniline | 0.03 moles, 3.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | ethyl acrylate | 0.033 moles, 3.3 g | C(C=C)(=O)OCC | C5H8O2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 3-(3-Chlorophenylamino)propionate | 3.5 g, 51% | ClC=1C=C(C=CC1)NCCC(=O)OCC | C11H14ClNO2
